US06610701B2
To a stirred mixture 2,6-difluorophenylacetonitrile (3.06 g, 20.0 mmol) in 30 mL of H2SO4 at 0° C. was added 12 mL of a 1:1 mixture of nitric acid and sulfuric acid. The reaction mixture stirred for 5 h and poured onto crushed ice. The resulting solid was filtered and air dried to give 2,6-difluoro-3-nitro-phenylacetamide.

reactant | 2,6-difluorophenylacetonitrile | 20.0 mmol, 3.06 g | FC1=C(C(=CC=C1)F)CC#N | C8H5F2N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,6-difluoro-3-nitro-phenylacetamide | FC1=C(C(=CC=C1[N+](=O)[O-])F)CC(=O)N | C8H6F2N2O3
